2152-01-14 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2152-1-13**] 06:45 PM
 MULTI LUMEN - START [**2152-1-13**] 10:00 PM
 NASAL SWAB - At [**2152-1-13**] 11:00 PM
   MRSA swab.
 ARTERIAL LINE - START [**2152-1-14**] 01:00 AM
 NASAL SWAB - At [**2152-1-14**] 04:00 AM
   Flu swabs sent by RT.
   - axillary a-line placed
   - pt with severe respiratory and metabolic acidosis  7.09/67/102/21. Pt
   also with likely bronchospasm with high pressures and auto-peep.
   Improved with q1 albuterol mdi
   - started bicarb gtt
   - respiratory status improved 7.23/49/103/22
   - received 10L NS, pt weaned off pressors at around 5am
   - pt with low UOP (improving)
   - ordered for TTE to eval cardiac function
   - started TF
   - flu swab sent
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2152-1-14**] 12:00 AM
   Vancomycin - [**2152-1-14**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-1-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-14**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 58 (58 - 70) bpm
   BP: 125/51(77) {113/49(73) - 135/53(82)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 12 (12 - 14)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                 10,134 mL
                                                                  1,204 mL
   PO:
   TF:
                                                                      5 mL
   IVF:
                                                                  4,134 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                    384 mL
                                                                    181 mL
   Urine:
                                                                     34 mL
                                                                    181 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,750 mL
                                                                  1,023 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 52.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.23/49/103/20/-7
   Ve: 10.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, intubated
   sedated
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   diffuse, Rhonchorous: ), poor air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Trace LE edema
   Skin:  Not assessed
   Neurologic: opens eyes, but sedated
   Labs / Radiology
   235 K/uL
   11.7 g/dL
   183 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   24 mg/dL
   115 mEq/L
   142 mEq/L
   37.5 %
   11.9 K/uL
         [image002.jpg]
                             [**2152-1-13**]  11:25 PM
                             [**2152-1-14**]  01:39 AM
                             [**2152-1-14**]  02:57 AM
                             [**2152-1-14**]  04:11 AM
                             [**2152-1-14**]  06:47 AM
   WBC
   11.9
   Hct
   37.5
   Plt
   235
   Cr
   1.0
   TCO2
   21
   20
   19
   22
   Glucose
   183
   Other labs: Differential-Neuts:78.5 %, Band:0.0 %, Lymph:13.7 %,
   Mono:6.6 %, Eos:1.1 %, Lactic Acid:0.6 mmol/L, Ca++:6.9 mg/dL, Mg++:1.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assesment: This is a 68 year-old female with a history of DM2, HTN, CAD
   s/p angioplasty, multiple vascular bypass procedures who presents with
   pneumonia, hypotension and respiratory distress.
   Plan:
   # Septic Shock - Patient with leukocytosis, elevated lactate,
   hypotension and fevers. Likely source is multifocal pneumonia.  Given
   her GI complaints legionella pneumonia is on the ddx. The CXR showed
   left mid and right lower lung consolidations.  The patientis requiring
   dopamine for hypotension and aggressive fluid.  UA was negative. Urine
   legionella negative. No evidence of abdominal infection on exam.
   - CVO2 82
   - Central venous line in place
   - Goal CVP 8-12; hold on add
l IVF for now but need to watch closely
   given low UOP
   - Transfuse for Hct > 30
   - Currently not requiring pressors but goal MAP>65, levophed if needed
   - Broad spectrum antiobiotics with levofloxacin/CTX/Vancomycin (CAP,
   but given concern for flu considering MRSA pneumonia superimposed); day
   #1 [**1-13**]
   - Tamiflu for concern for influenza, follow up Flu swab
   - Follow-up blood, urine and sputum culture
   .
   #. Respiratory Failure: Pt with likely COPD from long smoking history.
   CXR shows b/l opacities.  Pt intubated for respiratory failure in the
   ED.  Pt with +wheezes and tight on exam.  Likely pneumonia with COPD
   exacerbation.  Pt with persistant respiratory/metabolic acidosis;
   currently on bicarb gtt
   - Goal to wean FiO2 and will increase peep per ARDSnet, goal PaO2 > 65
   - Daily RSBI
   - albuterol & ipratropium q3hrs
   - solumedrol 125mg x1 then 60mg q8
   - ISS given steroids
   - VAP ppx protocol
   - abx and tamiflu as above
   .
   #Metabolic Acidosis- Non gap; Presumed [**1-18**] large volume of saline
   given, elevated lactate, no ketones in urine.
   -Sodium bicarb gtt for now
   - Repeat abg after completion of gtt to check pH
   #DM: Will hold oral agents and cover with ISS. Pt given steroids so
   will closely monitor sugars.
   .
   #. CAD: No evidence of active ischemia. CE neg and ECG negative.
   - f/u  ECHO
   - cont ASA
   - holding BB
   .
   #. HTN: Pt currently hypotensive will hold BP meds
   .
   # FEN: NPO, IVF
   .
   # Access: right IJ , axillary Aline
   .
   # PPx: H2, bowel regimen , heparin sq
   .
   # Code: FULL CODE
   .
   # Dispo: ICU
   .
   # Comm:  [**Name (NI) **] [**Name2 (NI) **]: [**Telephone/Fax (1) 11481**]/ Grand-daughter ([**Name (NI) **]) [**Telephone/Fax (1) 11482**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-14**] 07:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-1-13**] 07:00 PM
   18 Gauge - [**2152-1-13**] 07:00 PM
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: He blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2152-01-14 09:22:00 Physician Attending Progress Note
Chief Complaint: 3-4 days of high grade fever, cough , N/V, weakness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2152-1-13**] 06:45 PM
 MULTI LUMEN - START [**2152-1-13**] 10:00 PM
 NASAL SWAB - At [**2152-1-13**] 11:00 PM
   MRSA swab.
 ARTERIAL LINE - START [**2152-1-14**] 01:00 AM
 NASAL SWAB - At [**2152-1-14**] 04:00 AM
   Flu swabs sent by RT.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2152-1-14**] 12:00 AM
   Vancomycin - [**2152-1-14**] 08:11 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-1-14**] 07:50 AM
   Other medications:
   solumedrol 60 q8, levofloxacin 750 q24, tamiflu 75 [**Hospital1 **], ceftraixone,
   famotidine, heparin s/c, insulin s/c, vanco, asa 325, colace, atrovent,
   chlorhexidine, albuterol inhaler.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-14**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 59 (58 - 70) bpm
   BP: 112/47(70) {112/47(70) - 135/53(82)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 8 (8 - 14)mmHg
   Mixed Venous O2% Sat: 81 - 81
                                Total In:
                                                                 10,134 mL
                                                                  1,802 mL
   PO:
                                TF:
                                18 mL
   IVF:
                                                                  4,134 mL
                                                                  1,754 mL
   Blood products:
   Total out:
                                                                    384 mL
                                                                    216 mL
   Urine:
                                                                     34 mL
                                                                    216 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,750 mL
                                                                  1,586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 52.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.23/49/103/19/-7
   Ve: 10.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   180 K/uL
   250 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   25 mg/dL
   111 mEq/L
   139 mEq/L
   33.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2152-1-13**]  11:25 PM
                             [**2152-1-14**]  01:39 AM
                             [**2152-1-14**]  02:57 AM
                             [**2152-1-14**]  04:11 AM
                             [**2152-1-14**]  06:23 AM
                             [**2152-1-14**]  06:47 AM
   WBC
   11.9
   7.5
   Hct
   37.5
   33.4
   Plt
   235
   180
   Cr
   1.0
   1.0
   TCO2
   21
   20
   19
   22
   Glucose
   183
   250
   Other labs: Differential-Neuts:88.8 %, Band:0.0 %, Lymph:8.1 %,
   Mono:3.1 %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:7.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: Atypical pnuemonia pattern vs pulmonary edema, no clear
   effusions, low lung volumes.
   Microbiology: legionella antigen negative
   blood cultures NGTD
   sputum pending
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): levoflox and
   ceftriaxone, and vanco. check Vanco levels. Wbc nomalized. follow up
   cultures
 Septic shock: improved, improved lactic acidosis, off pressors and
   MAPin the 90s, goal CVP 8-12, CVO2 82%. Urine output slowly improving
   but still marginal, atypical pattern on CXR /w viral or atypical
   pneumonia. monitor urine ouptut. TTE today
 Respiratory failure: initially with autopeep and bronchospasm,
   improved with q1hours albuterol and solumedrol for today. titrate up
   PEEP slowly per ARDsnet protocol, and wean FiO2 as tolerated , goal PO2
   60-65. Would titrate Vt to 6-8cc/kg
Acidosis: metabolic predominant, some component of respiratory
   acidosis. Completee NaBicarb drip will recheck ABG.
Low UO: monitor creatinine, avoid renal toxins, monitor urine output
Nutrition: continue tube feeds
   Rest of plan per HO note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-14**] 07:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-1-13**] 07:00 PM
   18 Gauge - [**2152-1-13**] 07:00 PM
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2152-01-15 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -First swab for flu not enough cells; reordered
   -ECHO: IMPRESSION: Mild focal left ventricular systolic dysfunction,
   c/w prior inferior infarction. Compared with the report of the prior
   study (images unavailable for review) of [**2146-10-30**], basal inferior
   hypokinesis is seen. The other findings appear similar.
   -Set of enzymes negative
   -Bradycardia- ecg with sinus brady and a few PACs, ? [**1-18**] sedation
   -Sputum culture: 1+ tiny pleimorphic GN, 1+GPC in pairs
   -3pm bolus 500cc LR; UOP-->
   -5pm bolus 1000cc LR to improve UOP
   -Repeat abg: 7.28/46/125  CVO2:77-->given gas decided not to reduce TV
   much more
   -Nutrition: goal TF 45cc/hr
   -Vigelio: CO 5.7 CI 3 Stroke volume variance 2, SVI 54, SV 105- no
   change in management per Doninno until AM
   -Changed FiO2 to 60 b/c PaO2 lower-->then back up to FiO2 80-->7am
   decided to try 20mg IV lasix given poor FiO2 and UOP only 25cc/hr
   -Flu negative, d/c'd droplet preacautions
   -Per nursing may need erythromycin ointment on eye ? conjunctivitis
 TRANSTHORACIC ECHO - At [**2152-1-14**] 09:48 AM
 EKG - At [**2152-1-14**] 10:47 AM
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2152-1-14**] 12:00 AM
   Levofloxacin - [**2152-1-14**] 12:05 PM
   Vancomycin - [**2152-1-14**] 08:47 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-1-14**] 07:50 AM
   Fentanyl - [**2152-1-15**] 05:59 AM
   Midazolam (Versed) - [**2152-1-15**] 05:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-15**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 45 (43 - 70) bpm
   BP: 145/55(84) {112/47(70) - 160/69(97)} mmHg
   RR: 22 (18 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
    CVP: 18 (7 - 21)mmHg
   Mixed Venous O2% Sat: 77 - 81
   Total In:
                                                                  3,778 mL
                                                                    272 mL
   PO:
   TF:
                                                                    157 mL
                                                                    136 mL
   IVF:
                                                                  3,381 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                    581 mL
                                                                    210 mL
   Urine:
                                                                    581 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,197 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 35 cmH2O
   Plateau: 19 cmH2O
   Compliance: 67.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/43/99.[**Numeric Identifier 128**]/21/-2
   Ve: 12 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   10.7 g/dL
   150 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   33.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2152-1-14**]  04:11 AM
                             [**2152-1-14**]  06:23 AM
                             [**2152-1-14**]  06:47 AM
                             [**2152-1-14**]  11:13 AM
                             [**2152-1-14**]  05:08 PM
                             [**2152-1-14**]  05:30 PM
                             [**2152-1-14**]  07:41 PM
                             [**2152-1-15**]  01:59 AM
                             [**2152-1-15**]  04:11 AM
                             [**2152-1-15**]  05:48 AM
   WBC
   7.5
   6.9
   Hct
   33.4
   33.2
   Plt
   180
   189
   Cr
   1.0
   1.1
   1.0
   TropT
   <0.01
   TCO2
   19
   22
   23
   23
   24
   25
   23
   24
   Glucose
   [**Telephone/Fax (3) 11491**]
   Other labs: CK / CKMB / Troponin-T:101/4/<0.01, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:11.1 %, Mono:3.3 %, Eos:0.1 %, Lactic Acid:0.8
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assesment: This is a 68 year-old female with a history of DM2, HTN, CAD
   s/p angioplasty, multiple vascular bypass procedures who presents with
   pneumonia, hypotension and respiratory distress.
   Plan:
   # Septic Shock
 Significantly improved, on admission patient with
   leukocytosis, elevated lactate, hypotension and fevers. Likely source
   is multifocal pneumonia.  Given her GI complaints legionella pneumonia
   is on the ddx. The CXR showed left mid and right lower lung
   consolidations.  The patient had required pressors/IVF but now BP
   improved.  UA was negative. Urine legionella negative. No evidence of
   abdominal infection on exam.  Flu neg.
   - CVO2 82
   - Central venous line in place
   - Goal CVP 8-12;
   - Transfuse for Hct > 30
   - Currently not requiring pressors but goal MAP>65, levophed if needed
   - Broad spectrum antiobiotics with levofloxacin/CTX/Vancomycin (CAP,
   but given concern for flu considering MRSA pneumonia superimposed); day
   #2 [**1-13**]
   - d/c
d Tamiflu given neg flu
   - Follow-up blood, urine and sputum culture
   .
   #. Respiratory Failure: Pt with likely COPD from long smoking history.
   CXR shows b/l opacities.  Pt intubated for respiratory failure in the
   ED.  Pt with +wheezes and tight on exam.  Likely pneumonia with COPD
   exacerbation.  Pt with difficulty oxygenating and requiring additional
   FiO2 overnight
   - 20mg IV lasix this AM, goal -2L today
   - Goal to wean FiO2 and will increase peep per ARDSnet, goal PaO2 > 65
   - Daily RSBI
   - albuterol & ipratropium q3hrs
   - solumedrol 125mg x1 then 60mg q8
   - ISS given steroids
   - VAP ppx protocol
   .
   #Metabolic Acidosis- Non gap; Presumed [**1-18**] large volume of saline
   given, elevated lactate, no ketones in urine.
   -Improving; no add
l sodium bicarb for now
   #DM: ISS. Pt given steroids so will closely monitor sugars.
   .
   #. CAD: No evidence of active ischemia. CE neg and ECG negative.
   - f/u  ECHO
   - cont [**Month/Day (2) 369**]
   - holding BB
   .
   #. HTN: Starting HCTZ to augment diuresis, will
   .
   # FEN: NPO, IVF
   .
   # Access: right IJ , axillary Aline
   .
   # PPx: H2, bowel regimen , heparin sq
   .
   # Code: FULL CODE
   .
   # Dispo: ICU
   .
   # Comm:  [**Name (NI) **] [**Name2 (NI) **]: [**Telephone/Fax (1) 11481**]/ Grand-daughter ([**Name (NI) **]) [**Telephone/Fax (1) 11482**]
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-14**] 07:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-01-15 09:31:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2152-1-14**] 09:48 AM
 EKG - At [**2152-1-14**] 10:47 AM
   Flu swab negative. Urine output didnot respond to urine boluses,
   Creatinine stable. Received lasix.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2152-1-14**] 12:05 PM
   Vancomycin - [**2152-1-15**] 08:00 AM
   Tamiflu - [**2152-1-15**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2152-1-15**] 05:59 AM
   Midazolam (Versed) - [**2152-1-15**] 05:59 AM
   Furosemide (Lasix) - [**2152-1-15**] 06:53 AM
   Other medications:
   lasix, albuterol, [**Last Name (LF) **], [**First Name3 (LF) **] 325, solumedrol, fentanyl,
   methylprednisolone, ceftriaxone, famotidine, heparin s/c, insulin
   sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-15**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 49 (43 - 70) bpm
   BP: 159/62(94) {117/48(72) - 160/69(97)} mmHg
   RR: 22 (18 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
   CVP: 17 (8 - 21)mmHg
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  3,778 mL
                                                                    580 mL
   PO:
   TF:
                                                                    157 mL
                                                                    211 mL
   IVF:
                                                                  3,381 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                    581 mL
                                                                    515 mL
   Urine:
                                                                    581 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,197 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 64.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/43/122/21/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, boots in place
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   189 K/uL
   150 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   33.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2152-1-14**]  06:23 AM
                             [**2152-1-14**]  06:47 AM
                             [**2152-1-14**]  11:13 AM
                             [**2152-1-14**]  05:08 PM
                             [**2152-1-14**]  05:30 PM
                             [**2152-1-14**]  07:41 PM
                             [**2152-1-15**]  01:59 AM
                             [**2152-1-15**]  04:11 AM
                             [**2152-1-15**]  05:48 AM
                             [**2152-1-15**]  09:00 AM
   WBC
   7.5
   6.9
   Hct
   33.4
   33.2
   Plt
   180
   189
   Cr
   1.0
   1.1
   1.0
   TropT
   <0.01
   TCO2
   22
   23
   23
   24
   25
   23
   24
   24
   Glucose
   [**Telephone/Fax (3) 11491**]
   Other labs: CK / CKMB / Troponin-T:101/4/<0.01, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:11.1 %, Mono:3.3 %, Eos:0.1 %, Lactic Acid:0.8
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: Improved bilateral insterstial opacities
   Microbiology: micro: pleomorphic rods, and GPC.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER: CVP increased. currently volume
   overloaded. Wil start to diurese -2L.
 ALTERATION IN NUTRITION: on tube feeds.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): Continue current
   antibiotics pending culture data. d/c tamiflu Wean FiO2, and PEEP as
   tolerate, goal PO2 60-65. Wean steroids. Fairly awake on current
   sedation.
HTN: resume home antihypertensive regimen slowly, start thiazide. Goal
   SBP 140-130.
Diabetes: continue sliding scale. sugars in mid 100s.
CAD: continue [**Telephone/Fax (3) 369**].
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-14**] 07:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   -mult fluid boluses for low UOP without response
   -subsequently diuresed after echo/data felt c/w fluid overload
   Intubated, lightly sedated
   PERRL
   Normocephalic
   Cardiovascular: RRR
   Respiratory / Chest: clear anteriorly
   Abdominal: Soft, Non-tender
   Extremities: trace edema
   Resp failure
   -weaning vent as tolerated
   -presumed pneumonia
   Presumed CAP
   CTX, Vanc, Levo empirically pending cx data
   Hemodynamics
   -improved
 able to wean off pressors yesterday
   -today requiring restarting antiHTN meds
   Remainder of plan per resident & fellow note
   Pt is critically ill.
   Time spent on care 35min
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2152-1-15**] 14:50 ------

2152-01-16 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - mild decrease in [** **] support
   - given persistant hypertension, bradycardia and HA scanned head,
   prelim read negative
   - Started on lasix drip, negative 2.5L + in last 24hrs
   - sudden decrease in O2 sat after turning (~3 am)
   .
   [**2152-1-15**] 11:16p  @ FIO2 60% x 440 PEEP 10
   pH 7.36 pCO2 45 pO2 90 HCO3 26 BaseXS
   .
   [**2152-1-16**] 03:57a   @ FIO2 50% x 440 PEEP 10
   pH 7.35 pCO2 50 pO2 77 HCO3 29 BaseXS
   .
   [**2152-1-16**] 04:50a   @ FIO2 60% x 440 PEEP 10
   pH 7.37 pCO2 44 pO2 69 HCO3 26 BaseXS
   .
   [**2152-1-16**] 06:12a   @ FIO2 60% x 440 PEEP 10 (post recruiting)
   pH 7.40 pCO2 42 pO2 67 HCO3 27 BaseXS
   .
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-1-15**] 08:00 AM
   Tamiflu - [**2152-1-15**] 08:00 AM
   Levofloxacin - [**2152-1-15**] 12:30 PM
   Ceftriaxone - [**2152-1-15**] 04:38 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2152-1-15**] 06:48 PM
   Heparin Sodium (Prophylaxis) - [**2152-1-15**] 11:06 PM
   Midazolam (Versed) - [**2152-1-16**] 06:00 AM
   Fentanyl - [**2152-1-16**] 06:00 AM
   Hydralazine - [**2152-1-16**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-16**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 60 (47 - 66) bpm
   BP: 158/59(94) {122/50(76) - 184/80(120)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (8 - 21)mmHg
   Total In:
                                                                  1,400 mL
                                                                    449 mL
   PO:
   TF:
                                                                    538 mL
                                                                    206 mL
   IVF:
                                                                    812 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                  1,500 mL
   Urine:
                                                                  3,245 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                 -1,051 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 48.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/42/67/24/0
   Ve: 11.4 L/min
   PaO2 / FiO2: 96
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   254 K/uL
   11.4 g/dL
   258 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   37 mg/dL
   108 mEq/L
   140 mEq/L
   34.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2152-1-15**]  04:11 AM
                             [**2152-1-15**]  05:48 AM
                             [**2152-1-15**]  09:00 AM
                             [**2152-1-15**]  11:17 AM
                             [**2152-1-15**]  04:35 PM
                             [**2152-1-15**]  11:16 PM
                             [**2152-1-16**]  03:00 AM
                             [**2152-1-16**]  03:57 AM
                             [**2152-1-16**]  04:50 AM
                             [**2152-1-16**]  06:12 AM
   WBC
   8.2
   Hct
   34.7
   Plt
   254
   Cr
   1.1
   TCO2
   23
   24
   24
   24
   25
   26
   29
   26
   27
   Glucose
   258
   Other labs: CK / CKMB / Troponin-T:101/4/<0.01, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:11.1 %, Mono:3.3 %, Eos:0.1 %, Lactic Acid:0.8
   mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assesment: This is a 68 year-old female with a history of DM2, HTN, CAD
   s/p angioplasty, multiple vascular bypass procedures who presents with
   pneumonia, hypotension and respiratory distress, worsening overnight
   Plan:
   #. Respiratory Failure / ARDS: Pt with likely COPD from long smoking
   history.  CXR shows b/l opacities.  Pt intubated for respiratory
   failure in the ED.  Pt with +wheezes and tight on exam.  Likely
   pneumonia with COPD exacerbation.  Although initially improving O2
   requirement, since 3am sudden decompensation. Although still achieving
   O2 sat >02%, FIO2 requirement has increased in spite of adequate
   diuresis.
   - PNA aggressively treated with Vanco / Levoflox / Ceftriaxone, on day
   3 today. No evidence of flu, Chest xray unchanged, unlikely to be
   worsening infection given broad spectrum and lack of fever / WBC
   - Continue lasix drip, goal -200cc / hr, unlikely for volume overload
   to be driving hypoxia
   - We have used low PEEP, plateu pressures in 20
s, no evidence of auto
   peep or stacking
   - Increase PEEP, FIO2, goal PaO2 ~80 to avoid hypoxic vasoconstriction
   - Patient synchronous with [**Last Name (LF) **], [**First Name3 (LF) **] not suspect this is contributing
   - Ongoing treatment with IV solumedrol for COPD exacerbation
   - Round the clock inhalers
   - Given desaturation with turning, suspect V/Q mismatch
   - Patient may require bronchoscopy for further evaluation.
   # Septic Shock
 Resolved, patient has been hypertensive in the  past
   24hrs. On admission patient with leukocytosis, elevated lactate,
   hypotension and fevers. Likely source is multifocal pneumonia.  UA was
   negative. Urine legionella negative. No evidence of abdominal infection
   on exam.  Flu neg.
   - Central venous line in place
   - Goal CVP 8-12;
   - Broad spectrum antiobiotics with levofloxacin/CTX/Vancomycin (CAP,
   but given concern for flu considering MRSA pneumonia superimposed); day
   #2 [**1-13**]
   - d/c
d Tamiflu given neg flu
   - Follow-up blood, urine and sputum culture
   .
   .
   #Metabolic Acidosis- Resolved with diuresis
   #DM: ISS. Pt given steroids so will closely monitor sugars.
   .
   #. CAD: No evidence of active ischemia. CE neg and ECG negative.
   - ECHO with new inferior wall motion abnormality
   - cont ASA
   - holding BB
   .
   #. HTN: Starting HCTZ to augment diuresis, also started Hydralazine
   overnight, goal SBP 120-140 to avoid episodes of pulmonary edema
   .
   # FEN: NPO, IVF
   .
   # Access: right IJ , axillary Aline
   .
   # PPx: H2, bowel regimen , heparin sq
   .
   # Code: FULL CODE
   .
   # Dispo: ICU
   .
   # Comm:  [**Name (NI) **] [**Name2 (NI) **]: [**Telephone/Fax (1) 11481**]/ Grand-daughter ([**Name (NI) **]) [**Telephone/Fax (1) 11482**]
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-15**] 10:12 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-01-16 08:43:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Diuresed well overnight. Complained of headache and was hypertensive
   head CT done and unremarkable. Hypoxic with turns, FiO2 bumped up and
   now decreased.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-1-15**] 08:00 AM
   Tamiflu - [**2152-1-15**] 08:00 AM
   Levofloxacin - [**2152-1-15**] 12:30 PM
   Ceftriaxone - [**2152-1-15**] 04:38 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2152-1-15**] 06:48 PM
   Heparin Sodium (Prophylaxis) - [**2152-1-15**] 11:06 PM
   Midazolam (Versed) - [**2152-1-16**] 06:00 AM
   Fentanyl - [**2152-1-16**] 06:00 AM
   Hydralazine - [**2152-1-16**] 06:00 AM
   Other medications:
   insulin sliding scale, heparin s/c tid, famotidine, ceftriaxone,
   levofloxacin, methylprednisone, vancomycin, atrovent, asa,
   chlorhexidine, MVi, colace, nystatin, albuterol, hydrochlorothiazine,
   lasix drip at 3 per hours, hydralazine 10mg q6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-16**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 59 (48 - 66) bpm
   BP: 112/48(71) {112/48(71) - 184/80(120)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (8 - 17)mmHg
   Total In:
                                                                  1,400 mL
                                                                    512 mL
   PO:
   TF:
                                                                    538 mL
                                                                    248 mL
   IVF:
                                                                    812 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                  1,500 mL
   Urine:
                                                                  3,245 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                   -988 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/40/111/24/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   254 K/uL
   258 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   37 mg/dL
   108 mEq/L
   140 mEq/L
   34.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2152-1-15**]  05:48 AM
                             [**2152-1-15**]  09:00 AM
                             [**2152-1-15**]  11:17 AM
                             [**2152-1-15**]  04:35 PM
                             [**2152-1-15**]  11:16 PM
                             [**2152-1-16**]  03:00 AM
                             [**2152-1-16**]  03:57 AM
                             [**2152-1-16**]  04:50 AM
                             [**2152-1-16**]  06:12 AM
                             [**2152-1-16**]  08:07 AM
   WBC
   8.2
   Hct
   34.7
   Plt
   254
   Cr
   1.1
   TCO2
   24
   24
   24
   25
   26
   29
   26
   27
   26
   Glucose
   258
   Other labs: CK / CKMB / Troponin-T:101/4/<0.01, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:11.1 %, Mono:3.3 %, Eos:0.1 %, Lactic Acid:0.8
   mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR bilateral small infiltrates left midlung zone, and right
   lower lobe, tubes and lines in good position.
   Microbiology: cultures negative to date
   Assessment and Plan
 HTN: HCTZ d/c, hydralazine SBP 120-140 goal.
 ALTERATION IN NUTRITION: would start bowel regimen.
 Hypoxia/respiratory failure: likely ARDS but CXR much improved still
   with a significant A-a gradient, given intial presentation of
   hypotension and presistant signfiicant A-a gradient should exclude PE
   with CTPE at this point.  Would drop MV today to allow PCO2 to rise,
   wean PEEP as tolerated. Will hold diuresis for today pending this to
   minimize risk of contrast induced nephropathy. WIll give bicarb and
   mucomyst.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-15**] 10:12 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   ICU Attending Coverage
   I saw and examined the patient with the pulmonary fellow, the
   assessment and plan was discussed in detail.  I would emphasize the
   following.  Continues off pressors.  Diuresed overnight.  CTA negative
   for PE
 checked given high Fi02 requirements out of proportion to
   CXR.  Albeit there is significant underlying emphysema.
   Moving better air.  Secretions improved.
   Agree with continuing current management as detailed above.  Further
   diuresis as tolerated.
   Patient is critically ill
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 91**], MD
   on:[**2152-1-16**] 13:35 ------

2152-01-17 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- CTA: no PE, left upper lobe posterior pna, although given smoking
   history could be post-obstructive from hilar mass. Also, multiple small
   nodules will need 3 month follow-up
   -- narrowed antibiotics to levo (d/c vanco/ctx)
   -- changed to 60mg po prednisone
   - held TF at midnight in case plans for bronch tomorrow to eval ?mass.
   - able to wean FiO2 to 40% and decreased RR to 20
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2152-1-15**] 08:00 AM
   Vancomycin - [**2152-1-16**] 09:00 AM
   Levofloxacin - [**2152-1-16**] 12:10 PM
   Ceftriaxone - [**2152-1-16**] 04:49 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydralazine - [**2152-1-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-17**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (52 - 75) bpm
   BP: 140/61(89) {112/47(71) - 186/72(114)} mmHg
   RR: 20 (9 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  2,649 mL
                                                                    129 mL
   PO:
   TF:
                                                                    668 mL
                                                                      1 mL
   IVF:
                                                                  1,921 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                    330 mL
   Urine:
                                                                  3,235 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -586 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 18 cmH2O
   Compliance: 88 cmH2O/mL
   SpO2: 94%
   ABG: 7.41/51/71/27/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   12.4 g/dL
   124 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   40 mg/dL
   104 mEq/L
   141 mEq/L
   36.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2152-1-16**]  03:57 AM
                             [**2152-1-16**]  04:50 AM
                             [**2152-1-16**]  06:12 AM
                             [**2152-1-16**]  08:07 AM
                             [**2152-1-16**]  02:25 PM
                             [**2152-1-16**]  05:15 PM
                             [**2152-1-16**]  05:26 PM
                             [**2152-1-16**]  10:15 PM
                             [**2152-1-17**]  04:01 AM
                             [**2152-1-17**]  04:27 AM
   WBC
   10.9
   Hct
   36.2
   Plt
   299
   Cr
   1.2
   1.1
   TCO2
   29
   26
   27
   26
   30
   32
   32
   33
   Glucose
   124
   Other labs: PT / PTT / INR:12.2/24.2/1.0, CK / CKMB /
   Troponin-T:101/4/<0.01, Differential-Neuts:83.9 %, Band:0.0 %,
   Lymph:10.2 %, Mono:5.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.0
   mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assesment: This is a 68 year-old female with a history of DM2, HTN, CAD
   s/p angioplasty, multiple vascular bypass procedures who presents with
   pneumonia, hypotension and respiratory distress, worsening overnight
   Plan:
   #. Respiratory Failure / ARDS: Pt with likely COPD from long smoking
   history.  CXR shows b/l opacities.  Likely pneumonia with COPD
   exacerbation.  Although initially improving O2 requirement, since 3am
   sudden decompensation. Although still achieving O2 sat >02%, FIO2
   requirement has increased in spite of adequate diuresis.
   - PNA aggressively treated with Vanco / Levoflox / Ceftriaxone, on day
   3 today. No evidence of flu, Chest xray unchanged, unlikely to be
   worsening infection given broad spectrum and lack of fever / WBC
   - Continue lasix drip, goal -200cc / hr, unlikely for volume overload
   to be driving hypoxia
   - We have used low PEEP, plateu pressures in 20
s, no evidence of auto
   peep or stacking
   - Increase PEEP, FIO2, goal PaO2 ~80 to avoid hypoxic vasoconstriction
   - Patient synchronous with [**Last Name (LF) **], [**First Name3 (LF) **] not suspect this is contributing
   - Ongoing treatment with IV solumedrol for COPD exacerbation
   - Round the clock inhalers
   - Given desaturation with turning, suspect V/Q mismatch. On admission
   was hypotensive and SOB. No evidence of RV strain on ECHO, but will get
   CTA to r/o PE
   # Septic Shock
 Resolved, patient has been hypertensive in the  past
   24hrs. On admission patient with leukocytosis, elevated lactate,
   hypotension and fevers. Likely source is multifocal pneumonia.  UA was
   negative. Urine legionella negative. No evidence of abdominal infection
   on exam.  Flu neg.
   - Central venous line in place
   - Goal CVP 8-12;
   - Broad spectrum antiobiotics with levofloxacin/CTX/Vancomycin (CAP,
   but given concern for flu considering MRSA pneumonia superimposed); day
   #2 [**1-13**]
   - d/c
d Tamiflu given neg flu
   - Follow-up blood, urine and sputum culture
   .
   #Metabolic Acidosis- Resolved with diuresis.
   #DM: ISS. Pt given steroids so will closely monitor sugars.
   .
   #. CAD: No evidence of active ischemia. CE neg and ECG negative.
   - ECHO with new inferior wall motion abnormality
   - cont ASA
   - holding BB
   .
   #. HTN: Holding HCTZ given pt will get contrast, also started
   Hydralazine overnight, goal SBP 120-140 to avoid episodes of pulmonary
   edema
   .
   # FEN: NPO on TF with high residuals.
   .
   # Access: right IJ , axillary Aline
   .
   # PPx: H2, bowel regimen , heparin sq
   .
   # Code: FULL CODE
   .
   # Dispo: ICU
   .
   # Comm:  [**Name (NI) **] [**Name2 (NI) **]: [**Telephone/Fax (1) 11481**]/ Grand-daughter ([**Name (NI) **]) [**Telephone/Fax (1) 11482**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   20 Gauge - [**2152-1-16**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-01-17 09:41:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   CT-PE negative todate, has small LUL pneumonia ? post obstuctive. TF
   held for ? bronch, weaned FiO2 to 40%. Small to moderate secretions
   today.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2152-1-15**] 08:00 AM
   Vancomycin - [**2152-1-16**] 09:00 AM
   Levofloxacin - [**2152-1-16**] 12:10 PM
   Ceftriaxone - [**2152-1-16**] 04:49 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydralazine - [**2152-1-17**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-1-17**] 08:00 AM
   Famotidine (Pepcid) - [**2152-1-17**] 08:00 AM
   Other medications:
   insulin sliding scale, famotidine, heparin s/c, levofloxacin,
   ipratropium, asa, chlorhexidine, MVI, colace, albuterol inhaler,
   hydralazine, prednisone 60.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-17**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 67 (52 - 70) bpm
   BP: 148/62(93) {114/47(73) - 186/72(114)} mmHg
   RR: 21 (9 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (7 - 14)mmHg
   Total In:
                                                                  2,649 mL
                                                                    286 mL
   PO:
   TF:
                                                                    668 mL
                                                                      1 mL
   IVF:
                                                                  1,921 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                    510 mL
   Urine:
                                                                  3,235 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -586 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 18 cmH2O
   SpO2: 93%
   ABG: 7.41/51/71/27/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: mildy diffusely
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   299 K/uL
   124 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   40 mg/dL
   104 mEq/L
   141 mEq/L
   36.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2152-1-16**]  03:57 AM
                             [**2152-1-16**]  04:50 AM
                             [**2152-1-16**]  06:12 AM
                             [**2152-1-16**]  08:07 AM
                             [**2152-1-16**]  02:25 PM
                             [**2152-1-16**]  05:15 PM
                             [**2152-1-16**]  05:26 PM
                             [**2152-1-16**]  10:15 PM
                             [**2152-1-17**]  04:01 AM
                             [**2152-1-17**]  04:27 AM
   WBC
   10.9
   Hct
   36.2
   Plt
   299
   Cr
   1.2
   1.1
   TCO2
   29
   26
   27
   26
   30
   32
   32
   33
   Glucose
   124
   Other labs: PT / PTT / INR:12.2/24.2/1.0, CK / CKMB /
   Troponin-T:101/4/<0.01, Differential-Neuts:83.9 %, Band:0.0 %,
   Lymph:10.2 %, Mono:5.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.0
   mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: stable
   Microbiology: Sputum negative, blood culture NGTD
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER: will begin to actively diurese
   today goal -1-2L today.
 ALTERATION IN NUTRITION: NPO for bronchi this pm
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): wean PEEP, goal
   PO2>60. attempt pressure support later today. on levofloxacin alone for
   pneumonia may need anaerobic coverage wil d/w radiology re infiltrate
   in the LUL ? cavitation, will plan on bronch after discussion with Dr.
   [**Last Name (STitle) 1135**].
HTN: will resume thiazide, continue hydral standing will increase her
   dose.
Abdominal pain: will decrease bowel regimen and follow, likely
   cramping from bowel regimen.
   ICU Care
   Nutrition:
   Comments: NPo for bronchoscpy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   20 Gauge - [**2152-1-16**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Attending Note: I saw and examined the patient, and was physically
   present with Dr. [**First Name (STitle) 10399**] for the key portions of the services provided.
   I agree with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   Remains intubated and sedated, FiO2 40%, peep 12, and decreased RR to
   20. Tolerated PSV today before bronch. Off lasix drip today. Had CTA
   yesterday which was negative for PE but revealed a left hilar fullness
   (?mass) and small effusions. Performed bronchoscopy today through ETT.
   There were mucosal nodules, erythematous mucosa, and widening of
   secondary carinas at lingual/LUL. Washings sent for culture, cytology
   and cell count. Son [**Name (NI) **] was updated personally. Additional history is
   that the patient smoked 1 ppd of non-filtered cigarettes for 50 years.
   Agree with narrowing antibiotics to levofloxacin and tapering down
   steroids. For uncontrolled hypertension, agree with adding IV nitro
   until PO meds take effects.
   Patient is full code for now. Family aware that this may be a lung
   cancer. Currently next of [**Doctor First Name **] is patient
s husband though they are
   currently separated. HCP will need to be addressed eventually.
   Critically ill. Time 45 minutes not including bronchoscopy.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2152-1-17**] 18:12 ------

2152-01-18 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2152-1-17**] 03:00 PM
 BAL FLUID CULTURE - At [**2152-1-17**] 03:16 PM
   -Bronch:
   -Gave 20mg IV Lasix at 1pm [**1-18**] poor UOP
   -BP improved with add'l Lasix
   11:30am: 7.45/45/67
   1:15pm: PSV 14/10 pH7.44 pCO2 44 pO2 72
   -8pm: PSV 14/10 7.46/46/76; (on FiO2 50), UOP negative 1Liter
   -Down to PSV 10/10 FiO2 50% 7.40 pCO2 55 pO2 91 HCO3 35
   -Bronch done: shows abnormal friable cells, a few nodular areas;
   bronchial washing sent for gram stain/culture/cytology/fungal
   culture/AFB
   -BP remained high; started nitro gtt; increased hydralazine to 50mg PO
   q6; titrate oral meds
   -BAL washing: Gram stain negative so far
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2152-1-15**] 08:00 AM
   Vancomycin - [**2152-1-16**] 09:00 AM
   Ceftriaxone - [**2152-1-16**] 04:49 PM
   Levofloxacin - [**2152-1-17**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Nitroglycerin - 1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-1-17**] 08:00 AM
   Furosemide (Lasix) - [**2152-1-17**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2152-1-17**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-18**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 74 (64 - 100) bpm
   BP: 135/60(87) {97/53(70) - 180/75(111)} mmHg
   RR: 15 (11 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (6 - 13)mmHg
   Total In:
                                                                  1,157 mL
                                                                    461 mL
   PO:
   TF:
                                                                    207 mL
                                                                    236 mL
   IVF:
                                                                    620 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,168 mL
                                                                  1,165 mL
   Urine:
                                                                  2,168 mL
                                                                    365 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,011 mL
                                                                   -704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 440) mL
   Vt (Spontaneous): 385 (385 - 590) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 69.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/55/91/31/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Periphral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   11.7 g/dL
   183 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   44 mg/dL
   103 mEq/L
   143 mEq/L
   35.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2152-1-16**]  05:26 PM
                             [**2152-1-16**]  10:15 PM
                             [**2152-1-17**]  04:01 AM
                             [**2152-1-17**]  04:27 AM
                             [**2152-1-17**]  11:00 AM
                             [**2152-1-17**]  01:15 PM
                             [**2152-1-17**]  05:46 PM
                             [**2152-1-17**]  08:50 PM
                             [**2152-1-18**]  04:22 AM
                             [**2152-1-18**]  05:01 AM
   WBC
   10.9
   12.4
   Hct
   36.2
   35.6
   Plt
   299
   315
   Cr
   1.1
   1.1
   TCO2
   32
   32
   33
   32
   31
   34
   34
   35
   Glucose
   124
   183
   Other labs: PT / PTT / INR:12.2/24.2/1.0, CK / CKMB /
   Troponin-T:101/4/<0.01, Differential-Neuts:82.8 %, Band:0.0 %,
   Lymph:10.8 %, Mono:5.5 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:9.4
   mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assesment: This is a 68 year-old female with a history of DM2, HTN, CAD
   s/p angioplasty, multiple vascular bypass procedures who presents with
   pneumonia, hypotension and respiratory distress, worsening overnight
   Plan:
   #. Respiratory Failure / ARDS: Pt with likely COPD from long smoking
   history.  CXR shows b/l opacities.  Likely pneumonia with COPD
   exacerbation; although now ? post obstructive pneumonia on CTA (no
   evidence of PE)
   - Try to decrease PEEP to 5 today as tolerated
   - Try pressure support after
   - RISBI this AM
   - Currently treating with Levofloxacin (day #5 on [**1-18**] x 14 days) only
   at this point; weaned down given negative cultures, negative flu.
   - Patient is auto-diuresing; will watch UOP to goal 1500cc/hr negative
   - Need to discuss CT findings with radiology; may need bronch today
   given ? post obstructive pna
   - Continue PO Prednisone 60mg daily
   - Round the clock inhalers
   - Reduce restraints
   - Trial of PSV
   #. HTN: Continue Hydralazine scheduled, goal SBP 120-140 to avoid
   episodes of pulmonary edema
   - Wean nitro drip
   - restart amlodipine / clonidine, titrate up as needed
   -Increase Hydralazine to 20mg IV q6
   .
   # Diarrhea: Will check c diff in setting of antibiotics, hold bowel
   regimen
   #Abdominal Discomfort- Exam unrevealing; presume [**1-18**] recent
   lactulose/senna
   -Hold lactulose, will monitor closely
   .
   #Metabolic Acidosis- Resolved with diuresis.
   #DM: ISS. Pt given steroids so will closely monitor sugars.
   .
   #. CAD: No evidence of active ischemia. CE neg and ECG negative.
   - ECHO with new inferior wall motion abnormality
   - cont ASA
   - holding BB (particularly with COPD)
   .
   # FEN: NPO on TF with improving residuals.
   - restart as tolerated
   ..
   # Access: right IJ , axillary Aline
   .
   # PPx: H2, bowel regimen , heparin sq
   .
   # Code: FULL CODE
   .
   # Dispo: ICU
   .
   # Comm:  [**Name (NI) **] [**Name2 (NI) **]: [**Telephone/Fax (1) 11481**]/ Grand-daughter ([**Name (NI) **]) [**Telephone/Fax (1) 11482**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-17**] 05:09 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   20 Gauge - [**2152-1-16**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2152-01-18 10:46:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BRONCHOSCOPY - At [**2152-1-17**] - concern for endobronchial malignancy
 BAL FLUID CULTURE - At [**2152-1-17**] 03:16 PM
   Weaned vent to [**9-22**] and 50% PO2 86. Tolerated well.
   Uneventful night.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-1-16**] 09:00 AM
   Ceftriaxone - [**2152-1-16**] 04:49 PM
   Levofloxacin - [**2152-1-17**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Nitroglycerin - 3.5 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide  - [**2152-1-17**] 01:00 PM
   Famotidine  - [**2152-1-18**] 08:00 AM
   Heparin Sodium s/c- [**2152-1-18**]
   Other medications:
   insulin sliding scale, fentanyl versed ipratropium aspirin, prednisone
   60 mucomyst, lactulose, senna, HCTZ, hydralzine, nitro at 3.5
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-18**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 81 (68 - 100) bpm
   BP: 149/59(90) {97/53(70) - 188/75(120)} mmHg
   RR: 16 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  1,157 mL
                                                                    804 mL
   PO:
   TF:
                                                                    207 mL
                                                                    314 mL
   IVF:
                                                                    620 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,168 mL
                                                                  1,395 mL
   Urine:
                                                                  2,168 mL
                                                                    595 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,011 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 397 (385 - 590) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.42/50/86.[**Numeric Identifier 96**]/31/6
   Ve: 9.5 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   315 K/uL
   183 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   44 mg/dL
   103 mEq/L
   143 mEq/L
   35.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2152-1-16**]  10:15 PM
                             [**2152-1-17**]  04:01 AM
                             [**2152-1-17**]  04:27 AM
                             [**2152-1-17**]  11:00 AM
                             [**2152-1-17**]  01:15 PM
                             [**2152-1-17**]  05:46 PM
                             [**2152-1-17**]  08:50 PM
                             [**2152-1-18**]  04:22 AM
                             [**2152-1-18**]  05:01 AM
                             [**2152-1-18**]  08:06 AM
   WBC
   10.9
   12.4
   Hct
   36.2
   35.6
   Plt
   299
   315
   Cr
   1.1
   1.1
   TCO2
   32
   33
   32
   31
   34
   34
   35
   34
   Glucose
   124
   183
   Other labs: PT / PTT / INR:12.2/24.2/1.0, CK / CKMB /
   Troponin-T:101/4/<0.01, Differential-Neuts:82.8 %, Band:0.0 %,
   Lymph:10.8 %, Mono:5.5 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:9.4
   mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: BAL 96% polys
   Imaging: CXR clear tubes and lines in good position.
   Microbiology: bronch data pending
   Assessment and Plan
 Acute respiratory failure: failed  trial of [**7-20**] earlier today then
   tolerated [**7-20**] well. Subsequently put on [**4-19**] and appeared ready for
   extubation. Extubated at ~4:30pm. Etiology of resp failure unclear
   [**Name2 (NI) **] vs mucous plugging vs post-[**Last Name (un) 2621**] pneumonia vs flu, etc. BAL so far
   just shows [**12-18**]+ polys with no organisms. Cell count with predominantly
   polys, no eos. Cytology pending. Continue diuresis, levofloxacin x 10
   days for [**Month/Day (2) **].
 Probable lung ca: if cytology negative, will likely need repeat
   bronch/TBBx. PET/CT will be helpful to evaluate extent of disease.
   Family aware of CT/bronch findings.
 Hypertension: resume home clonidine, and amlodipine, continue nitro
   IV and hydralazine until BP improves with PO meds.
 Malnutrition: continue TF.
Diarrhea: check C.diff.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-1-18**] 09:49 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   20 Gauge - [**2152-1-16**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2152-01-19 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2152-1-18**] 04:55 PM
 STOOL CULTURE - At [**2152-1-18**] 06:00 PM
   - BP Meds advanced agressively
   --(Amlodipine 10mg / hydralazine 75mg q6H/ Clonidine 0.2mg TID)
   - Weaned vent, extubated at 8/5 with good results
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-1-16**] 09:00 AM
   Ceftriaxone - [**2152-1-16**] 04:49 PM
   Levofloxacin - [**2152-1-18**] 12:00 PM
   Infusions:
   Nitroglycerin - 2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-1-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-1-18**] 11:11 PM
   Furosemide (Lasix) - [**2152-1-18**] 11:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-19**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 70 (58 - 95) bpm
   BP: 145/67(93) {101/49(71) - 188/75(120)} mmHg
   RR: 16 (12 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: -13 (-13 - 11)mmHg
   Total In:
                                                                  1,990 mL
                                                                    309 mL
   PO:
                                                                    170 mL
                                                                     50 mL
   TF:
                                                                    450 mL
   IVF:
                                                                    980 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                  1,835 mL
   Urine:
                                                                  2,480 mL
                                                                  1,435 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,290 mL
                                                                 -1,526 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 350 (350 - 519) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.48/44/111/36/9
   Ve: 9.4 L/min
   PaO2 / FiO2: 159
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Periphral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   312 K/uL
   10.5 g/dL
   174 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.9 mEq/L
   39 mg/dL
   100 mEq/L
   142 mEq/L
   32.6 %
   12.8 K/uL
        [image002.jpg]
                             [**2152-1-17**]  05:46 PM
                             [**2152-1-17**]  08:50 PM
                             [**2152-1-18**]  04:22 AM
                             [**2152-1-18**]  05:01 AM
                             [**2152-1-18**]  08:06 AM
                             [**2152-1-18**]  01:00 PM
                             [**2152-1-18**]  03:07 PM
                             [**2152-1-18**]  05:44 PM
                             [**2152-1-18**]  11:36 PM
                             [**2152-1-19**]  02:10 AM
   WBC
   12.4
   12.8
   Hct
   35.6
   32.6
   Plt
   315
   312
   Cr
   1.1
   1.1
   1.1
   TCO2
   34
   34
   35
   34
   34
   34
   34
   Glucose
   183
   302
   174
   Other labs: PT / PTT / INR:12.2/24.6/1.0, CK / CKMB /
   Troponin-T:101/4/<0.01, Differential-Neuts:82.8 %, Band:0.0 %,
   Lymph:10.8 %, Mono:5.5 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:9.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assesment: This is a 68 year-old female with a history of DM2, HTN, CAD
   s/p angioplasty, multiple vascular bypass procedures who presents with
   pneumonia, hypotension and respiratory distress, worsening overnight
   Plan:
   #. Respiratory Failure / ARDS: Pt with likely COPD from long smoking
   history.  CXR shows b/l opacities.  Likely pneumonia with COPD
   exacerbation; and LUL mass which is new.  Viral cultures negative.
   Bronch cultures w/o growth. Cytology of Bronch pending  Extubated on
   [**1-18**] and doing well on face tent with supplemental oxygen
   - Currently treating with Levofloxacin (day #6 on [**1-19**] x 14 days) only
   at this point; weaned down given negative cultures, negative flu.
   - Appears relatively euvolemic; will goal -500cc/1Liter today
   - Begin to taper prednisone
   - Start Spiriva today; standing albuterol tx; will begn advair on
   discharge
   -Wean Oxygen as tolerated
   #. HTN: Continue Hydralazine scheduled, goal SBP 120-140 to avoid
   episodes of pulmonary edema
   - Wean nitro drip
   - Continue amlodipine 10 / clonidine 0.2 , HCTZ 12.5 and titrate to get
   off gtt
   - Hydralazine to 75mg IV q6
   - Resume Lisinopril 20mg per home regimen today
   .
   # Diarrhea: Will check c diff in setting of antibiotics, hold bowel
   regimen
   -C.Diff negx1; send 2 more sets
   #Abdominal Discomfort- Exam unrevealing; presume [**1-18**] recent
   lactulose/senna
   -Hold lactulose, will monitor closely
   .
   #Metabolic Alkalosis- Likely [**1-18**] contraction and compensation from
   COPD/respiratory acidosis
   #DM: ISS. Pt given steroids so will closely monitor sugars.
   .
   #. CAD: No evidence of active ischemia. CE neg and ECG negative.
   - ECHO with new inferior wall motion abnormality
   - cont ASA, restarting Lisinopril today
   .
   # FEN: Advance to regular
   ..
   # Access: right IJ , axillary Aline
   .
   # PPx: H2, bowel regimen , heparin sq
   .
   # Code: FULL CODE
   .
   # Dispo: ICU
   .
   # Comm:  [**Name (NI) **] [**Name2 (NI) **]: [**Telephone/Fax (1) 11481**]/ Grand-daughter ([**Name (NI) **]) [**Telephone/Fax (1) 11482**]
   ICU Care
   Nutrition: Advance to regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   20 Gauge - [**2152-1-16**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: d/c H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2152-01-19 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo w/ COPD, admitted w/ resp failure in the setting of a pna,
   imaging also raising suspicion for lung mass. Active issues include
   refractory HTN.
   24 Hour Events:
   Uneventful night.
   BAL cytology negative
   History obtained from Patient
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2152-1-16**] 04:49 PM
   Levofloxacin - [**2152-1-18**] 12:00 PM
   Infusions:
   Nitroglycerin - 1.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2152-1-18**] 11:35 PM
   Heparin Sodium (Prophylaxis) - [**2152-1-19**] 08:38 AM
   Other medications:
   Pepcid, ASA, Colace, Nystatin, Prednisone, HCTZ, Nitro gtt, Clonidine,
   Hydralazine, MVI, Norvasc, albuterol nebs prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-19**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 75 (58 - 95) bpm
   BP: 132/47(77) {101/43(71) - 178/67(102)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 14 (-13 - 14)mmHg
   Total In:
                                                                  1,990 mL
                                                                    437 mL
   PO:
                                                                    170 mL
                                                                    100 mL
   TF:
                                                                    450 mL
   IVF:
                                                                    980 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                  2,035 mL
   Urine:
                                                                  2,480 mL
                                                                  1,435 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,290 mL
                                                                 -1,598 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: Standby
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.48/44/111/36/9
   Ve: 9.4 L/min
   PaO2 / FiO2: 159
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   B bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   312 K/uL
   174 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.9 mEq/L
   39 mg/dL
   100 mEq/L
   142 mEq/L
   32.6 %
   12.8 K/uL
        [image002.jpg]
                             [**2152-1-17**]  05:46 PM
                             [**2152-1-17**]  08:50 PM
                             [**2152-1-18**]  04:22 AM
                             [**2152-1-18**]  05:01 AM
                             [**2152-1-18**]  08:06 AM
                             [**2152-1-18**]  01:00 PM
                             [**2152-1-18**]  03:07 PM
                             [**2152-1-18**]  05:44 PM
                             [**2152-1-18**]  11:36 PM
                             [**2152-1-19**]  02:10 AM
   WBC
   12.4
   12.8
   Hct
   35.6
   32.6
   Plt
   315
   312
   Cr
   1.1
   1.1
   1.1
   TCO2
   34
   34
   35
   34
   34
   34
   34
   Glucose
   183
   302
   174
   Other labs: PT / PTT / INR:12.2/24.6/1.0, CK / CKMB /
   Troponin-T:101/4/<0.01, Differential-Neuts:82.8 %, Band:0.0 %,
   Lymph:10.8 %, Mono:5.5 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:9.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: BAL cytology- pending
   Imaging: CXR- R hilar infiltrate; B effusions
   Microbiology: C diff- neg
   Resp viral Ag screen neg, cx pending
   Bronch ([**1-17**])- cx neg to date
   Assessment and Plan
   68 yo w/ COPD, admitted w/ resp failure in the setting of a pna,
   imaging also raising suspicion for lung mass. Active issues include
   refractory HTN.
   (1) Acute respiratory failure
 COPD exac + poss pna + poss underlying
   malig; extubated yest uneventfully
   -levofloxacin x10d total (day 6 today)
   -start prednione taper --> to 40qd today
   -start standing Spiriva and albuterol HFA scheduled
   -cont to diurese for goal TBB -[**Telephone/Fax (1) 1335**]/day
   -wean FiO2; cont pulm toilet and incentive spirometry
   (2) HTN- refractory on NTG gtt
   -on home amlodipine, clonidine and HCTZ and hydralazine
   -resume home lisinopril today and cont to wean NTG gtt
   (3) PROBABLE LUNG CA-
   - BAL cytology negative
   -plan for repeat bronch/biopsy and likely PET as resp status improves
   Family meeting took place with son [**Name (NI) **], [**Name2 (NI) **], and patient. I
   explained that there is a mass on the CT which is likely cancer. She
   was noticeably saddened but not in shock. Plan is for repeat bronch
   with endobronchial biopsy. [**Month (only) 60**] be useful to do an EBUS bronch. All
   questions answered.
   ICU Care
   Nutrition: advance diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-1-13**] 10:00 PM
   Arterial Line - [**2152-1-14**] 01:00 AM
   20 Gauge - [**2152-1-16**] 07:00 PM
   Comments: anticipate IJ and art line out when off NTG gtt
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code, critically ill
   Disposition :ICU but may be stable for floor later this evening
   Total time spent: 55 minutes